US05670633
K. 2'-Deoxy-N4 -Benzoyl-2'-Methylthiocytidine
To a stirred solution of 2'-deoxy-2'-methylthiocytidine (0.86 g, 3.15 mmol) in dry pyridine (20 ml) was added trimethylchlorosilane (2.0 ml, 15.75 mmol), and stirring continued for 15 min. Benzoyl chloride (2.18 ml, 18.9 mmol) was added to the solution followed by stirring for 2 hr. The mixture was then cooled in an ice-bath and MeOH (10 ml) was added. After 5 mins., NH4OH (20 ml, 30% aq.) was added and the mixture stirred for 30 min. The reaction mixture was then concentrated under vacuum and the residue purified by short silica gel (70 g) column chromatography. Elution with CH2Cl2 :MeOH (9:1, v/v), pooling of appropriate fractions and evaporation furnished the title compound (0.55 g, 46.6%) which crystallized from EtOH as needles, m.p. 193°-194° C.

reactant | 2'-deoxy-2'-methylthiocytidine | 3.15 mmol, 0.86 g | C[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=S)N=C(N)C=C1 | C10H15N3O3S
reactant | trimethylchlorosilane | 15.75 mmol, 2.0 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | Benzoyl chloride | 18.9 mmol, 2.18 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | NH4OH | 20 ml | [NH4+].[OH-]
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | MeOH | 10 ml | CO | CH4O
product | 2'-Deoxy-N4 -Benzoyl-2'-Methylthiocytidine | 0.55 g, 46.6% | C(C1=CC=CC=C1)(=O)NC1=NC(N([C@H]2[C@@H]([C@H](O)[C@@H](CO)O2)C)C=C1)=S | C17H19N3O4S
